US08497281B2
Step 2: 9-amino-5,6-dihydro-benzo[f]quinoline
A mixture of 9-nitro-5,6-dihydro-benzo[f]quinoline (1.90 g), 10% palladium on carbon (0.20 g), and methanol (10 mL) is shaken under hydrogen atmosphere (3 bar) at room temperature for 3 h. The catalyst is then separated by filtration and the filtrate is concentrated to give an oil that is submitted to the next reaction without further purification. Yield: 1.67 g (crude); Mass spectrum (ESI+): m/z=197 [M+H]+.

reactant | 9-nitro-5,6-dihydro-benzo[f]quinoline | 1.90 g | [N+](=O)([O-])C=1C=CC2=C(C=3C=CC=NC3CC2)C1 | C13H10N2O2
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 9-amino-5,6-dihydro-benzo[f]quinoline | NC=1C=CC2=C(C=3C=CC=NC3CC2)C1 | C13H12N2
